US07375113B2
1-(2-Benzyloxyethyl)-4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine
To a solution of 4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine (98 mg) in acetone (4 mL) were added cesium carbonate (87 mg), benzyl 2-bromoethyl ether (0.032 mL) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature for 3 days. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1) to give the title compound (0.11 g).

reactant | 4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 98 mg | C1(=CC=CC=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C40H55N3O10
reactant | cesium carbonate | 87 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl 2-bromoethyl ether | 0.032 mL | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | 1-(2-Benzyloxyethyl)-4-(2-phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 0.11 g | C(C1=CC=CC=C1)OCCN1N=C(C=2C1=NC=CC2CCC2=CC=CC=C2)O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C49H65N3O11
